US04242521
α-Cyano-3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(-2-(isopropoxyimino)propyl)cyclopropanecarboxylat
Following procedures similar to Embodiment II above: α-cyano -3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(2-(neopentoxyimino)propyl)cyclopropanecarboxylate, 3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(2-(isobutoxyimino)propyl)cyclopropanecarboxylate, α-cyano-3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(2-(cyclopropylmethoxyimino)propyl)cyclopropanecarboxylate, α-cyano-3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(2-(cyclobutylmethoxyimino)propyl)cyclopropanecarboxylate are prepared as well as the corresponding esters in the racemic and (1R,trans) form and similar esters with other alcohols: α-ethynyl-3-phenoxybenzyl alcohol, 3,4,5,6-tetrahydrophthalimidomethyl alcohol, 2,6-dichlorobenzyl alcohol, 2-chloro-4-phenyl-2-butenl-o1 and allethrolone.

reactant | α-cyano -3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(2-(neopentoxyimino)propyl)cyclopropanecarboxylate | CC1([C@@H]([C@@H]1CC(C)=NOCC(C)(C)C)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C28H34N2O4
reactant | 3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(2-(isobutoxyimino)propyl)cyclopropanecarboxylate | CC1([C@@H]([C@@H]1CC(C)=NOCC(C)C)C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C26H33NO4
reactant | α-cyano-3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(2-(cyclopropylmethoxyimino)propyl)cyclopropanecarboxylate | CC1([C@@H]([C@@H]1CC(C)=NOCC1CC1)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C27H30N2O4
reactant | α-cyano-3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(2-(cyclobutylmethoxyimino)propyl)cyclopropanecarboxylate | CC1([C@@H]([C@@H]1CC(C)=NOCC1CCC1)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C28H32N2O4
reactant | α-ethynyl-3-phenoxybenzyl alcohol | C(#C)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C15H12O2
reactant | 3,4,5,6-tetrahydrophthalimidomethyl alcohol | C1(C2=C(C(N1CO)=O)CCCC2)=O | C9H11NO3
reactant | 2,6-dichlorobenzyl alcohol | ClC1=C(CO)C(=CC=C1)Cl | C7H6Cl2O
reactant | allethrolone | CC1=C(C(=O)CC1O)CC=C | C9H12O2
product | α-Cyano-3-phenoxybenzyl (1R,cis)-2,2-dimethyl-3-(-2-(isopropoxyimino)propyl)cyclopropanecarboxylat | CC1([C@@H]([C@@H]1CC(C)=NOC(C)C)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C26H30N2O4
